US06809097B1
5-((3-Methoxy-4-methoxycarbonylanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (10 g, 29.8 mmol) was suspended in DOWTHERM A, (trade mark of Fluka Chemie AG), (125 ml) and heated to 180-190° C. over 30 minutes. The starting material dissolved at 100° C. and carbon dioxide came off at approximately 180° C. The heating was stopped after a further 30 minutes and the product precipitated out as the temperature dropped. Upon reaching 40° C. ether was added and the mixture was stirred for 30 minutes. The solid was collected by filtration, washed with ether and dried under vacuum to give 7-methoxy-6-methoxycarbonyl-1,4-dihydroquinolin-4-one (5.56 g, 80%).

reactant | 5-((3-Methoxy-4-methoxycarbonylanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 29.8 mmol, 10 g | COC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1C(=O)OC | C16H17NO7
reactant | carbon dioxide | C(=O)=O | CO2
solvent | DOWTHERM A | 125 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 7-methoxy-6-methoxycarbonyl-1,4-dihydroquinolin-4-one | 5.56 g, 80% | COC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC | C12H11NO4
